Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Latex / Shellfish / ibuprofen
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history notable for DCIS s/p Lumpectomy and radiation therapy at
___, seizure, HLD, asthma, and prior diverticulitis and colitis
in ___ who presented to urgent care on ___ at ___ with 1
week of lower quadrant abdominal pain who was found to have
diverticulitis with mirocperforation and is being admitted for 
IV
antibiotics and pain control. 

The patient reports that she was in her usual state of health
until approximately 1 week prior to presentation to urgent care. 

She reports that she developed bilateral lower quadrant pain 
with
left greater than right over the course of the last several 
days.
She reports the pain is moderate to severe.  She reports that 
she
believes the pain initially began after she started treatment 
for
a UTI on ___.  She reports that the pain is associated with
constipation as well.  She ultimately reports that she has some
pressure passing gas and feels bloated.  She denies any dysuria
or vaginal discharge.  She ultimately went to urgent care where
she underwent a CT scan that was notable for focal wall
thickening of the sigmoid colon with extensive surrounding fat
stranding and small free fluid.  There was a small
microperforation without a drainable collection.  Findings are
most consistent with diverticulitis.  Her labs were notable for 
a
white blood cell count of 8.7, remainder of her CBC was normal,
and an unremarkable CMP.  She was given IV antibiotics and was
transported to ___ for further
evaluation.

In the ___ emergency department
she was seen and evaluated.  Her initial vital signs were 
notable
for 10 out of 10 pain, temperature of 97.9, heart rate 87, blood
pressure 114/81, respiratory rate 18, and satting 99% on room
air.  She was given 400 mg of IV ciprofloxacin and 500 mg of IV
metronidazole.  She was also given 1 L of LR.  She was seen by
surgery in the emergency department who felt like the patient 
did
not have any surgical needs.  They did feel like the patient
would likely benefit from pain control and IV antibiotics with
repeat surgical evaluation if diverticulitis recurs or fails to
resolve.

On arrival to the floor the patient reports that she is 
continued
to have lower quadrant abdominal pain.  No other acute 
complaints
at this time.  She specifically denies fevers or chills.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
DCIS status post lumpectomy and radiation therapy at ___
Seizure
Hyperlipidemia
Asthma
Prior diverticulitis and colitis and ___
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
Admission EXAM(8)
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation in the LLQ.
No rebound.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge exam:
Vitals: temp 98.2; BP 98/50; HR 62; RR 18; O2 98% RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild tender to palpation in the 
LLQ.
No rebound or  guarding.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Imaging:
CT abd/pelvis:
Focal wall thickening of the sigmoid colon with extensive
surrounding fat stranding and small free fluid. There is a small
microperforation without drainable collection. Findings are most
in keeping with diverticulitis. Direct visualization after
resolution of symptoms is recommended.

admission Labs:

___ 05:26AM BLOOD WBC-7.5 RBC-3.86* Hgb-11.4 Hct-34.9 
MCV-90 MCH-29.5 MCHC-32.7 RDW-11.9 RDWSD-39.5 Plt ___
___ 05:26AM BLOOD Glucose-114* UreaN-5* Creat-0.5 Na-140 
K-3.8 Cl-104 HCO3-25 AnGap-11

Discharge Labs:

___ 05:36AM BLOOD WBC-6.7 RBC-3.84* Hgb-11.3 Hct-34.1 
MCV-89 MCH-29.4 MCHC-33.1 RDW-11.9 RDWSD-38.5 Plt ___
___ 05:36AM BLOOD Glucose-81 UreaN-4* Creat-0.6 Na-143 
K-3.9 Cl-106 HCO3-21* AnGap-___ female with the past medical history notable for 
DCIS s/p Lumpectomy and radiation therapy at BWH, seizure, HLD, 
asthma, and prior diverticulitis and colitis in ___ who 
presented to urgent care on ___ at ___ with 1 week of lower
quadrant abdominal pain who was found to have diverticulitis 
with mirocperforation and is being admitted for IV antibiotics 
and pain control. 

#Acute complicated diverticulitis: Patient presented with new 
onset left lower quadrant pain in the setting of prior history 
of diverticulitis/colitis.  She has CT imaging consistent with 
diverticulitis with a microperforation with no drainable abscess 
or collection.  Seen by surgery and no role for surgical 
intervention at this time. She was started on cipro/flagyl and 
bowel rest with improvement of symptoms. At discharge she was 
able to tolerate a PO diet and her pain had nearly completely 
resolved. She remained afebrile and without leukocytosis. She 
was discharged on cipro/flagyl to complete total 7 day course of 
abx through ___. Should consider outpatient colonoscopy in ___ 
weeks for further evaluate underlying etiology.

#Mild intermittent asthma: Not currently in flare. No wheezing 
currently. Continue home medications. 

# GERD:- Continue home omeprazole. 

#HA- Resolved with Tylenol. 

Transitional Issues:
[] consider colonoscopy In ___ weeks

Greater than 30 min spent on discharge planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO BID 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
4. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
continue taking through ___.  MetroNIDAZOLE 500 mg PO Q8H 
continue taking through ___.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB  
4.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
6.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
diverticulitis with microperforation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain. You were found to likely 
have diverticulitis causing your symptoms. You were started on 
antibiotics and bowel rest with improvement of symptoms. You 
remained stable so you were discharged home to complete your 
antibiotic therapy.

New Medications:
1) Ciprofloxacin is an antibiotic. Please take twice a day
2) Flagyl is a an antibiotic. Please take three times a day

Best of luck in your recovery,
Your ___ care team
 
Followup Instructions:
___